US09290517B2
Step A: 2-chloro-8-(methylthio)-7H-purine
To a stirring solution of 2-chloro-7H-purine-8(9H)-thione (2.00 g, 10.72 mmol) and potassium hydroxide (722 mg, 12.86 mmol) in anhydrous EtOH (66.4 mL) was added iodomethane (0.67 mL, 10.72 mmol). The reaction solution was stirred under N2 at RT for 4 h, then partitioned between EtOAc (85 mL) and 2N HCl (15 mL) and allowed to settle overnight. To the aqueous layer, which contained solid material, was added more water (60 mL). The mixture was filtered, and dried under vacuum to afford the title compound as a solid. LC-MS: calculated for C6H5ClN4S 199.99 observed m/e: 200.99 (M+H)+ (Rt 0.99/1.8 min).

reactant | 2-chloro-7H-purine-8(9H)-thione | 10.72 mmol, 2.00 g | ClC1=NC=C2NC(NC2=N1)=S | C5H3ClN4S
reactant | potassium hydroxide | 12.86 mmol, 722 mg | [OH-].[K+]
reactant | iodomethane | 10.72 mmol, 0.67 mL | IC | CH3I
solvent | EtOH | 66.4 mL | CCO | C2H6O
product | 2-chloro-8-(methylthio)-7H-purine | ClC1=NC=C2NC(=NC2=N1)SC | C6H5ClN4S
